US07666871B2
5-Methyl-4-(2-pyrrolidin-1-yl-ethyl)-2-(3′-trifluoromethoxy-biphenyl-4-yl)-oxazole
The title compound is prepared in a manner substantially analogous to Example 35 starting from 3-Trifluoromethoxybenzene boronic acid and 2-(4-Bromo-phenyl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole. MS (m/e): 417.1 (M+1)

reactant | 3-Trifluoromethoxybenzene boronic acid | FC(OC=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O3
reactant | 2-(4-Bromo-phenyl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCN1CCCC1)C | C16H19BrN2O
product | 5-Methyl-4-(2-pyrrolidin-1-yl-ethyl)-2-(3′-trifluoromethoxy-biphenyl-4-yl)-oxazole | CC1=C(N=C(O1)C1=CC=C(C=C1)C1=CC(=CC=C1)OC(F)(F)F)CCN1CCCC1 | C23H23F3N2O2
